US04780504
Using the procedure of Sheeman et al [J.A.C.S., Vol. 84 (1982), p. 2457], 1.37 g of p-amino-benzoic acid, 2.35 g of 5-chlorosalicylaldehyde, 240 ml of ethanol and 17 ml of anhydrous methanol were reacted to obtain 2.59 g of 4-[(5-chloro-2-hydroxy-benzylidene)amino]-benzoic acid.

reactant | p-amino-benzoic acid | 1.37 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 5-chlorosalicylaldehyde | 2.35 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | ethanol | 240 ml | C(C)O | C2H6O
solvent | methanol | 17 ml | CO | CH4O
product | 4-[(5-chloro-2-hydroxy-benzylidene)amino]-benzoic acid | 2.59 g | ClC=1C=CC(=C(C=NC2=CC=C(C(=O)O)C=C2)C1)O | C14H10ClNO3
